US03954754
EXAMPLE 31: 3-Hydrazino-6-octanoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
11.5 g of 3-chloro-6-octanoyl-5,6,7,8-tetrahydropyrido(4,3-c]pyridazine, dissolved in 50 cc of dioxane, and 30 cc of hydrazine hydrate are stirred at a bath temperature of 100° for 16 hours, and the mixture is worked up as described in Example 17. The gentisinate of the title compound has a M.P. of 164°-166° (decomp., from methanol).

reactant | 3-chloro-6-octanoyl-5,6,7,8-tetrahydropyrido(4,3-c]pyridazine | 11.5 g | ClC1=CC2=C(N=N1)CCN(C2)C(CCCCCCC)=O | C15H22ClN3O
reactant | hydrazine hydrate | 30 cc | O.NN
reactant | gentisinate | C1=CC(=C(C=C1O)C(=O)O)O | C7H6O4
solvent | dioxane | 50 cc | O1CCOCC1 | C4H8O2
product | 3-Hydrazino-6-octanoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(CCCCCCC)=O | C15H25N5O
